2165-12-30 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - had multiple loose BM with trace guiac positive; started ranitidine
   and sent for c.diff
   - pulm recs: still want to do BAL in 2 weeks to hopefully get cytology
   results although can't do biopsy until off coumadin.  Also would push
   for more extensive w/u of malignancy given high O2 requirement
   - c.diff negative, wrote for immodium prn
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2165-12-29**] 02:38 PM
   Azithromycin - [**2165-12-29**] 04:00 PM
   Metronidazole - [**2165-12-29**] 10:00 PM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2165-12-29**] 02:39 PM
   Coumadin (Warfarin) - [**2165-12-29**] 04:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea
   Flowsheet Data as of  [**2165-12-30**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.2
   HR: 72 (67 - 96) bpm
   BP: 89/41(53) {89/38(50) - 135/82(85)} mmHg
   RR: 17 (11 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 53 kg
             Total In:
                                                                  1,026 mL
                                                                     50 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    426 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,175 mL
                                                                      0 mL
   Urine:
                                                                  1,175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -149 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) No acute distress, No(t) Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   at bases, Diminished: at bases), moderate [**Location (un) **] movement, upper lung
   fields clear to auscultation
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   136 K/uL
   9.8 g/dL
   100 mg/dL
   1.1 mg/dL
   29 mEq/L
   4.3 mEq/L
   13 mg/dL
   107 mEq/L
   143 mEq/L
   29.6 %
   4.1 K/uL
        [image002.jpg]
                             [**2165-12-25**]  05:56 PM
                            [**2165-12-26**]  05:01 AM
                            [**2165-12-26**]  07:48 AM
                            [**2165-12-27**]  06:05 AM
                            [**2165-12-27**]  04:29 PM
                            [**2165-12-28**]  04:19 AM
                            [**2165-12-29**]  05:46 AM
                            [**2165-12-30**]  05:20 AM
   WBC
   5.5
   6.5
   5.3
   5.4
   3.8
   4.1
   Hct
   37.9
   38.2
   32.0
   34.0
   31.8
   28.9
   29.6
   Plt
   185
   165
   158
   146
   139
   136
   Cr
   0.9
   1.2
   1.2
   1.1
   1.1
   1.1
   TropT
   3.99
   2.65
   TCO2
   28
   Glucose
   95
   107
   106
   116
   102
   100
   Other labs: PT / PTT / INR:21.8/87.3/2.0, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: no cytology available
   Imaging: no new imaging
   Microbiology: sputum - no acid fast bacili
   cdiff negative
   Assessment and Plan
   [**Known firstname 1515**] [**Known lastname 9774**] is a 81 yo female with a history of CAD who presented
   with an STEMI s/p cath.
   # CORONARIES:  Patient with anterior STEMI.  SVG found to be completely
   occluded and a BMS was placed in the proximal LAD.
   - [**Known lastname 1167**] 75 and aspirin 325mg daily
   - metoprolol 25 mg TID
   - Echo with akinesis
 coumadin therapeutic, d/c heparin tomorrow after
   2 day overlap
   - atorvastatin 80mg PO daily
   # PUMP:  patient appears clinically euvolemic, however, patient with
   substantial oxygen requirement concerning for pulmonary edema. ECHO
   with EF 30-35%. SOB did not improve with Lasix
   - Metoprolol 25 tid
   - Lisinopril 5
   # RHYTHM: currently in normal sinus rhythm.  Few episodes of NSVT,
   improved with increased B-blocker.
   - will monitor on tele.
   - xopinex for less B-agonist effect
   #Post-obstructive PNA: Chest CT with multiple pulmonary nodules, likely
   from primary or metastatic neoplasm.  Respiratory status stable/
   improving with decreasing O2 requirements.  Currently afebrile with no
   leukocytosis.  Pt with long smoking history and mildly hyperinflated
   lungs
 likely retainer at baseline. Goal O2sat >:90%
   - supplemental O2 prn
   - assess O2 requirement, off facemask with ABG
   - cont nebs standing and prn.
   - appreciate pulmonary recs
   -  will obtain sputum cytology daily, potential bronschopy with washing
   2 weeks post stemi, eventual biopsy.
   - obtain CXR
   - cont ceftriaxone/ azithromycin/ metronidazole for postobstructive PNA
   #Diarrhea - likely abx associated diarrhea.  Cdiff negative
   - immodium prn
   # Chronic renal insufficiency - patient with GFR 48.
   - renally dose medications & avoid nephrotoxins
   # HTN - BB and ACE I as above
   # Macular Degeneration - continue vitamins & minerals
   #FEN:  cardiac diet.
   #ACCESS: PIV's
   #PROPHYLAXIS:
   -DVT ppx with therapeutic Hep
   -Bowel regimen with colace & senna
   #CODE: Presumed full
   #COMM:  [**Name (NI) 443**] & [**Name2 (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2165-12-29**] 08:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 34**] and Pride.
   I would add the following remarks:
   Medical Decision Making
   Mrs. [**Known lastname 9774**] remains hypoxic on NC O2 6 L and shovel mask albeit not
   symptomatic. Her sats drop to high 70s with small movements like
   getting up to the commode. Her CXR continues to show bibasilar
   opacities. I spoke to Dr. [**Last Name (STitle) 60**] this am who feels her desaturation
   and hypoxia are related to a substantial tumor burden involving the
   lungs in the setting of pneumonia and post-obstructive pneumonia. His
   recommendation was to aggressively pursue sputum for cytology in terms
   of obtaining a diagnosis and if no diagnosis is available by Wednesday
   he will consider a high risk bronchoscopy with BAL despite [**Last Name (LF) **], [**First Name3 (LF) **]
   and coumadin. He felt there was no utility now in performing a CTA as
   PE is unlikely and we are anticoagulating her with coumadin anyway.
   Continue [**Last Name (LF) **], [**First Name3 (LF) **] and ACEI for her CAD and recent NSTEMI.
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name **] or health care proxy. I have discussed
   this plan with Dr(s). [**Name (NI) 34**] and Pride.

2165-12-31 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - pulm recs: Bronch not being done given hypoxia.  Hypoxia likely due
   to tumor burden, which indicates poor px, unless it is a thyroid
   malignancy.  Obtain multiple cytologies and call path regarding rapid
   f/u.  ECHO with bubble to eval for ASD/VSD.
   - ABG 7.43 43 45 29; O2 sat 82%
   - ECHO: no PFO
   - CXR: unchanged
   - sputum cytology pos for malignancy cells consistent w
   adenocarcinoma.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2165-12-30**] 02:45 PM
   Azithromycin - [**2165-12-30**] 04:35 PM
   Metronidazole - [**2165-12-30**] 04:35 PM
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-12-31**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 82 (72 - 108) bpm
   BP: 110/50(65) {81/32(41) - 129/65(113)} mmHg
   RR: 16 (10 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 53 kg
             Total In:
                                                                    718 mL
                                                                     39 mL
   PO:
                                                                    520 mL
             TF:
   IVF:
                                                                    198 mL
                                                                     39 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                      0 mL
   Urine:
                                                                    825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -107 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 94%
   ABG: 7.43/43/45//3
   PaO2 / FiO2: 47
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: face tent
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   bases R>L), (Breath Sounds: Clear : in upper lung fields, Wheezes :
   intermittent)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   136 K/uL
   9.8 g/dL
   100 mg/dL
   1.1 mg/dL
   29 mEq/L
   4.3 mEq/L
   13 mg/dL
   107 mEq/L
   143 mEq/L
   29.6 %
   4.1 K/uL
        [image002.jpg]
                             [**2165-12-25**]  05:56 PM
                            [**2165-12-26**]  05:01 AM
                            [**2165-12-26**]  07:48 AM
                            [**2165-12-27**]  06:05 AM
                            [**2165-12-27**]  04:29 PM
                            [**2165-12-28**]  04:19 AM
                            [**2165-12-29**]  05:46 AM
                            [**2165-12-30**]  05:20 AM
                            [**2165-12-30**]  12:50 PM
   WBC
   5.5
   6.5
   5.3
   5.4
   3.8
   4.1
   Hct
   37.9
   38.2
   32.0
   34.0
   31.8
   28.9
   29.6
   Plt
   185
   165
   158
   146
   139
   136
   Cr
   0.9
   1.2
   1.2
   1.1
   1.1
   1.1
   TropT
   3.99
   2.65
   TCO2
   28
   29
   Glucose
   95
   107
   106
   116
   102
   100
   Other labs: PT / PTT / INR:23.4/56.4/2.2, CK / CKMB /
   Troponin-T:91/56/2.65, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR: There is no significant interval change in the right
   lower lobe and right
   middle lobe consolidation as well as no change in the multiple
   pulmonary
   nodules. There is no evidence of pulmonary edema. There is no interval
   increase in consolidation or appearance of pleural effusion or
   pneumothorax.
   Cardiomediastinal silhouette and post-sternotomy wires are unchanged.
   Microbiology: Gram stain - GPCs in pairs
   Assessment and Plan
   [**Known firstname 1515**] [**Known lastname 9774**] is a 81 yo female with a history of CAD who presented
   with an STEMI s/p cath.
   # CORONARIES:  Patient with anterior STEMI.  SVG found to be completely
   occluded and a BMS was placed in the proximal LAD.
   - plavix 75 and aspirin 325mg daily
   - metoprolol 25 mg TID
   - Echo with akinesis
 coumadin therapeutic, d/c heparin
   - atorvastatin 80mg PO daily
   # PUMP:  patient appears clinically euvolemic, however, patient with
   substantial oxygen requirement concerning for pulmonary edema. ECHO
   with EF 30-35%. SOB did not improve with Lasix
   - Metoprolol 25 tid
   - Lisinopril reduced to 2.5  yesterday
   # RHYTHM: currently in normal sinus rhythm.  Few episodes of NSVT,
   improved with increased B-blocker.
   - will monitor on tele.
   - xopinex for less B-agonist effect
   #Post-obstructive PNA: Chest CT with multiple pulmonary nodules, likely
   from primary or metastatic neoplasm.  Cytology now positive for
   malginant cells consistent w adenopcarcinoma, but unable to do further
   tests on cytology sample.  Tissue biopsy woudl be idea but given
   respiratory status and high risk for bronch, should consider other
   alternatives. Respiratory status stable/ improving with decreasing O2
   requirements.  Currently afebrile with no leukocytosis.  Pt with long
   smoking history and mildly hyperinflated lungs
 likely retainer at
   baseline. Goal O2sat >:90%  HIgh O2 requirement prevents tranfer from
   ICU
   - supplemental O2 prn
   - ABG showed pt truely hypoxemic when sating 82% on 6L w PaO2 in 40s
   - cont nebs standing and prn.
   - appreciate pulmonary recs
   - Heme Onc c/s for ? further workup, options for empiric tx.
   - c/s rad onc re: potential treatmetn to reduce obstruction and
   oxygenation prior to further workup.
   - cont ceftriaxone/ azithromycin/ metronidazole for postobstructive PNA
   #Diarrhea - likely abx associated diarrhea.  Cdiff negative
   # Chronic renal insufficiency - patient with GFR 48.
   - renally dose medications & avoid nephrotoxins
   # HTN - BB and ACE I as above
   # Macular Degeneration - continue vitamins & minerals
   #FEN:  cardiac diet.
   #ACCESS: PIV's
   #PROPHYLAXIS:
   -DVT ppx with therapeutic Hep
   -Bowel regimen with colace & senna
   #CODE: Presumed full
   #COMM:  [**Name (NI) 443**] & [**Name2 (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2165-12-29**] 08:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2165-12-31 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
    - pulm recs: Bronch not being done given hypoxia.  Hypoxia likely due
   to tumor burden, which indicates poor px, unless it is a thyroid
   malignancy.  Obtain multiple cytologies and call path regarding rapid
   f/u.  ECHO with bubble to eval for ASD/VSD.
   - ABG 7.43 43 45 29; O2 sat 82%
   - ECHO: no PFO
   - CXR: unchanged
   - sputum cytology pos for malignancy cells consistent w
   adenocarcinoma.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2165-12-30**] 02:45 PM
   Azithromycin - [**2165-12-30**] 04:35 PM
   Metronidazole - [**2165-12-30**] 04:35 PM
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No CP/SOB/Abd Pain/ N/V.
   Flowsheet Data as of  [**2165-12-31**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 82 (73 - 108) bpm
   BP: 110/50(65) {81/32(41) - 129/65(113)} mmHg
   RR: 16 (10 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 53 kg
             Total In:
                                                                    718 mL
                                                                     51 mL
   PO:
                                                                    520 mL
             TF:
   IVF:
                                                                    198 mL
                                                                     51 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    200 mL
   Urine:
                                                                    825 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -107 mL
                                                                   -149 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 94%
   ABG: 7.43/43/45/26/3
   PaO2 / FiO2: 47
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: face tent
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   R>L base), (Breath Sounds: Clear : , Diminished: bases R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   142 K/uL
   9.8 g/dL
   106 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.4 mEq/L
   11 mg/dL
   103 mEq/L
   137 mEq/L
   28.7 %
   4.0 K/uL
        [image002.jpg]
                             [**2165-12-25**]  05:56 PM
                            [**2165-12-26**]  05:01 AM
                            [**2165-12-26**]  07:48 AM
                            [**2165-12-27**]  06:05 AM
                            [**2165-12-27**]  04:29 PM
                            [**2165-12-28**]  04:19 AM
                            [**2165-12-29**]  05:46 AM
                            [**2165-12-30**]  05:20 AM
                            [**2165-12-30**]  12:50 PM
                            [**2165-12-31**]  05:44 AM
   WBC
   5.5
   6.5
   5.3
   5.4
   3.8
   4.1
   4.0
   Hct
   37.9
   38.2
   32.0
   34.0
   31.8
   28.9
   29.6
   28.7
   Plt
   185
   165
   158
   146
   139
   136
   142
   Cr
   0.9
   1.2
   1.2
   1.1
   1.1
   1.1
   1.0
   TropT
   3.99
   2.65
   TCO2
   28
   29
   Glucose
   95
   107
   106
   116
   102
   100
   106
   Other labs: PT / PTT / INR:29.8/94.0/3.0, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:3.9 mg/dL
   Cytology positive for malignant cells consistent with adenocarcinoma.
   Assessment and Plan
   [**Known firstname 1515**] [**Known lastname 9774**] is a 81 yo female with a history of CAD who presented
   with an STEMI s/p cath.
   # CORONARIES:  Patient with anterior STEMI.  SVG found to be completely
   occluded and a BMS was placed in the proximal LAD.
   - plavix 75 and aspirin 325mg daily
   - metoprolol 25 mg TID
   - Echo with akinesis
 coumadin therapeutic, d/c heparin
   - atorvastatin 80mg PO daily
   # PUMP:  patient appears clinically euvolemic, however, patient with
   substantial oxygen requirement concerning for pulmonary edema. ECHO
   with EF 30-35%. SOB did not improve with Lasix
   - Metoprolol 25 tid
   - Lisinopril reduced to 2.5  yesterday
   # RHYTHM: currently in normal sinus rhythm.  Few episodes of NSVT,
   improved with increased B-blocker.
   - will monitor on tele.
   - xopinex for less B-agonist effect
   #Post-obstructive PNA: Chest CT with multiple pulmonary nodules, likely
   from primary or metastatic neoplasm.  Cytology now positive for
   malginant cells consistent w adenopcarcinoma, but unable to do further
   tests on cytology sample.  Tissue biopsy woudl be idea but given
   respiratory status and high risk for bronch, should consider other
   alternatives. Respiratory status stable/ improving with decreasing O2
   requirements.  Currently afebrile with no leukocytosis.  Pt with long
   smoking history and mildly hyperinflated lungs
 likely retainer at
   baseline. Goal O2sat >:90%  HIgh O2 requirement prevents tranfer from
   ICU
   - supplemental O2 prn
   - ABG showed pt truely hypoxemic when sating 82% on 6L w PaO2 in 40s
   - cont nebs standing and prn.
   - appreciate pulmonary recs
   - Heme Onc c/s for ? further workup, options for empiric tx.
   - c/s rad onc re: potential treatmetn to reduce obstruction and
   oxygenation prior to further workup.
   - cont ceftriaxone/ azithromycin/ metronidazole for postobstructive PNA
   #Diarrhea - likely abx associated diarrhea.  Cdiff negative
   # Chronic renal insufficiency - patient with GFR 48.
   - renally dose medications & avoid nephrotoxins
   # HTN - BB and ACE I as above
   # Macular Degeneration - continue vitamins & minerals
   #FEN:  low sodium diet
   #ACCESS: PIV's
   #PROPHYLAXIS:
   -DVT ppx with therapeutic Hep
   -Bowel regimen with colace & senna
   #CODE: Presumed full
   #COMM:  [**Name (NI) 443**] & [**Name2 (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2165-12-29**] 08:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 34**] and Pride.
   I would add the following remarks:
   Medical Decision Making
   Mrs. [**Known lastname 9774**] retains her lovely disposition. She remains hypoxemic
   off her supplemental O2 with sats in the mid 70s to lower 80s without
   any complaints of SOB at the time. This would suggest that this is a
   chronic state for her. Sputum cytology is positive for adenocarcinoma
   like bronchioalveolar CA which carries a very poor prognosis. We have
   consulted Heme-Onc and Rad-Onc and are awaiting their input. For her
   STEMI and stent to LAD she continues Plavix and asa (BMS). She is on
   coumadin for prevention of mural thrombus and her INR is 3.0. We will
   continue antibiotics for 10 days total and transfer her to the stepdown
   unit on [**Hospital Ward Name 408**] 3. I have spoken with the charge nurse [**First Name (Titles) **] [**Last Name (Titles) 408**] 3 and
   notified her of Mrs[**Known lastname 9895**] intermittent desaturation without
   symptoms and she is willing to take the patient as long as O2 sat
   parameters are made clear in the orders.
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name **] or health care proxy. I have discussed
   this plan with Dr(s). [**Name (NI) 34**] and Pride.
   Total time spent on patient care: 40 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2165-12-31**] 12:28 PM ------